US06350749B1
To a mixture of acetone (22 ml), sodium hydroxide (0.83 g) and water (55 ml) was added dropwise at room temperature a solution of 5-chloro-2-fluorobenzaldehyde (3.5 g) in acetone (20 ml), and the mixture was stirred at the same temperature for 15 hours. Under reduced pressure, acetone was evaporated, and the residue was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and concentrated under reduced pressure to give 4-(5-chloro-2-fluorophenyl)-3-buten-2-one (4.3 g).

reactant | sodium hydroxide | 0.83 g | [OH-].[Na+]
reactant | water | 55 ml | O | H2O
reactant | 5-chloro-2-fluorobenzaldehyde | 3.5 g | ClC=1C=CC(=C(C=O)C1)F | C7H4ClFO
reactant | acetone | 20 ml | CC(=O)C | C3H6O
reactant | acetone | 22 ml | CC(=O)C | C3H6O
product | 4-(5-chloro-2-fluorophenyl)-3-buten-2-one | 4.3 g | ClC=1C=CC(=C(C1)C=CC(C)=O)F | C10H8ClFO
